US08445499B2
Step 4: tert-butyl 1′-(5-methylpyrazin-2-yl)-4,4′-bipiperidine-1-carboxylate
The tert-butyl-1′-(5-chloropyrazin-2-yl)-4,4′-bipiperidine-1-carboxylate (1.1 g, 2.9 mmol) was dissolved in 1:1 THF and NMP (30 mL) at r.t. Iron (III) acetylacetonate (512 mg, 1.45 mmol) was added under N2. Methyl magnesium bromide (3M, 3.9 mL, 11.6 mmol) was added dropwise and the mixture stirred for 15 min. An ice cooled solution of saturated ammonia chloride (30 mL, aq.) and ethyl acetate (30 mL) were added, the mixture shaken, and the phases separated. The organic phase was washed with brine (10 mL, ×1), dried over magnesium sulfate, filtered, and concentrated in vac. The residue was purified by chromatography on silica gel with 12.5% acetone: hexanes to yield the title compound.

reactant | tert-butyl-1′-(5-chloropyrazin-2-yl)-4,4′-bipiperidine-1-carboxylate | 2.9 mmol, 1.1 g | C(C)(C)(C)OC(=O)N1CCC(CC1)C1CCN(CC1)C1=NC=C(N=C1)Cl | C19H29ClN4O2
reactant | Methyl magnesium bromide | 11.6 mmol, 3M, 3.9 mL | C[Mg]Br
reactant | ammonia chloride | 30 mL | [Cl-].N
reactant | ethyl acetate | 30 mL | C(C)(=O)OCC | C4H8O2
solvent | THF | C1CCOC1 | C4H8O
solvent | NMP | 30 mL | CN1CCCC1=O | C5H9NO
catalyst | Iron (III) acetylacetonate | 1.45 mmol, 512 mg | C/C(=C/C(=O)C)/O.C/C(=C/C(=O)C)/O.C/C(=C/C(=O)C)/O.[Fe]
product | tert-butyl 1′-(5-methylpyrazin-2-yl)-4,4′-bipiperidine-1-carboxylate | CC=1N=CC(=NC1)N1CCC(CC1)C1CCN(CC1)C(=O)OC(C)(C)C | C20H32N4O2
